US08871766B2
B) 5-methyl-2-(pyridin-4-yl)benzoic acid hydrochloride
A mixture of methyl 5-methyl-2-(pyridin-4-yl)benzoate (8.8 g), 6 N hydrochloric acid (65 mL) and acetic acid (100 mL) was heated under reflux overnight. The solvent was evaporated under reduced pressure, and the obtained solid was washed with ethyl acetate to give the title compound (6.6 g).

reactant | methyl 5-methyl-2-(pyridin-4-yl)benzoate | 8.8 g | CC=1C=CC(=C(C(=O)OC)C1)C1=CC=NC=C1 | C14H13NO2
reactant | hydrochloric acid | 6 N, 65 mL | Cl | ClH
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 5-methyl-2-(pyridin-4-yl)benzoic acid hydrochloride | 6.6 g | Cl.CC=1C=CC(=C(C(=O)O)C1)C1=CC=NC=C1 | InChI=1S/C13H11NO2.ClH/c1-9-2-3-11(12(8-9)13(15)16)10-4-6-14-7-5-10;/h2-8H,1H3,(H,15,16);1H
